US06987116B2
A mixture of 3,4,5-trimethoxyaniline (964 mg, 5.26 mmol), pyridine hydrochloride (100 mg, 0.76 mmol) and 4-chloro-2-iodothieno[3,2-b]pyridine-6-carbonitrile (937 mg, 2.92 mmol) in 50 mL of 2-ethoxyethanol is heated at reflux overnight. The solution is poured into saturated aqueous sodium bicarbonate and the resulting solid is collected by filtration, washed with water and dried under reduced pressure. The resultant solid is purified by flash column chromatography eluting with 2% methanol in dichloromethane. The fractions containing product are combined and concentrated to provide 1.17 g of 2-iodo-7-[(3,4,5-trimethoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile as white crystals, mp 254-256° C.; 1H NMR (DMSO-d6) δ 3.70-3.78 (m, 9H), 6.66 (s, 2H), 7.72 (s, 1H), 8.53 (s, 1H), 9.56 (s, 1H); MS 468.1 (M+H)+.

reactant | 3,4,5-trimethoxyaniline | 5.26 mmol, 964 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | pyridine hydrochloride | 0.76 mmol, 100 mg | Cl.N1=CC=CC=C1
reactant | 4-chloro-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 2.92 mmol, 937 mg | ClN1C=2C(=CC(=C1)C#N)SC(C2)I | C8H4ClIN2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-ethoxyethanol | 50 mL | C(C)OCCO | C4H10O2
product | 2-iodo-7-[(3,4,5-trimethoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile | 1.17 g | IC1=CC2=NC=C(C(=C2S1)NC1=CC(=C(C(=C1)OC)OC)OC)C#N | C17H14IN3O3S
